US06719520B2
3-[4-(2-Aminoethyl)phenylamino]-4-(2-methoxyphenyl)-1H-pyrrole-2,5-dione
A solution of 3-[4-[2-(t-butoxycarbonylamino)ethyl]phenylamino]-4-(2-methoxyphenyl)-1H-pyrrole-2,5-dione (0.060 g. 0.13 mmol) and trifluoroacetic acid (4 drops) in dry DCM (5 mL) was stirred for 18 hours at room temperature. The suspension was diluted with ethyl acetate (10 mL), poured onto sodium bicarbonate (20 mL) and extracted with ethyl acetate (3×10 mL). The combined organic solutions were washed with brine, dried with magnesium sulfate, evaporated and the residue triturated with a mixture of hexane-dichloromethane (95:5 v/v) to afford the tide compound as an orange solid.

reactant | 3-[4-[2-(t-butoxycarbonylamino)ethyl]phenylamino]-4-(2-methoxyphenyl)-1H-pyrrole-2,5-dione | 0.13 mmol, 0.060 g | C(C)(C)(C)OC(=O)NCCC1=CC=C(C=C1)NC=1C(NC(C1C1=C(C=CC=C1)OC)=O)=O | C24H27N3O5
catalyst | trifluoroacetic acid | 4 drops | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 3-[4-(2-Aminoethyl)phenylamino]-4-(2-methoxyphenyl)-1H-pyrrole-2,5-dione | NCCC1=CC=C(C=C1)NC=1C(NC(C1C1=C(C=CC=C1)OC)=O)=O | C19H19N3O3
